US09169254B2
A 2 N aqueous NaOH solution (15.0 ml, 30.0 mmol) was added to a solution of (4-bromo-3-trifluoromethyl-phenylamino)-acetic acid methyl ester (4.30 g, 13.8 mmol) in methanol-THF (6:1, 35.0 ml), and the mixture was stirred at room temperature for 18 hours. The reaction mixture was made acidic with hydrochloric acid and extracted with ethyl acetate. The organic layer was sequentially washed with water and saturated brine, and then dried over MgSO4 and concentrated under reduced pressure to give (4-bromo-3-trifluoromethyl-phenylamino)-acetic acid (4.03 g, 98%).

reactant | NaOH | 30.0 mmol, 2 N, 15.0 ml | [OH-].[Na+]
reactant | (4-bromo-3-trifluoromethyl-phenylamino)-acetic acid methyl ester | 13.8 mmol, 4.30 g | COC(CNC1=CC(=C(C=C1)Br)C(F)(F)F)=O | C10H9BrF3NO2
reactant | hydrochloric acid | Cl | ClH
solvent | methanol THF | 35.0 ml | CO.C1CCOC1
product | (4-bromo-3-trifluoromethyl-phenylamino)-acetic acid | 4.03 g, 98% | BrC1=C(C=C(C=C1)NCC(=O)O)C(F)(F)F | C9H7BrF3NO2
